US05090993
3-Methyl-2-(phenylmethylthio)-benzoic acid, 1-methylethyl ester
To a stirred suspension of dry tetrahydrofuran (125mL) and 35% potassium hydride in oil (6.3 g) was slowly added benzyl mercaptan (6.1 mL) at 0° C. under an inert atmosphere. After 15 minutes, 3-methyl-2-nitrobenzoic acid, 1-methylethyl ester (11.23 g) was added and the resulting mixture was stirred at room temperature overnight. The reaction mixture was partitioned between 6N sodium hydroxide (25 mL) and ethyl acetate (150 mL). The organic phase was dried over magnesium sulfate, filtered, concentrated, and chromatographed on silica gel eluted with 5% ethyl acetate in hexanes to give 13.7 g of the title compound as a yellow oil, nD 1.5642.

reactant | potassium hydride | [H-].[K+]
reactant | benzyl mercaptan | 6.1 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | 3-methyl-2-nitrobenzoic acid, 1-methylethyl ester | 11.23 g | CC=1C(=C(C(=O)OC(C)C)C=CC1)[N+](=O)[O-] | C11H13NO4
solvent | tetrahydrofuran | 125mL | O1CCCC1 | C4H8O
product | 3-Methyl-2-(phenylmethylthio)-benzoic acid, 1-methylethyl ester | 13.7 g | CC=1C(=C(C(=O)OC(C)C)C=CC1)SCC1=CC=CC=C1 | C18H20O2S
